US07754759B2
To a solution of (7-benzenesulfonyl-chroman-2-ylmethyl)-methyl-carbamic acid tert-butyl ester (125 mg, 0.299 mmol) in DCM (25 mL) was added TFA (0.5 mL). The reaction was stirred for 4 h at RT, then concentrated in vacuo. The residue was recrystallized from acetone/hexane plus EtOAc to give (7-benzenesulfonyl-chroman-2-ylmethyl)-methyl-amine (76 mg, 80% yield) as white needles: Mp 196.2-198.2° C.

reactant | (7-benzenesulfonyl-chroman-2-ylmethyl)-methyl-carbamic acid tert-butyl ester | 0.299 mmol, 125 mg | C(C)(C)(C)OC(N(C)CC1OC2=CC(=CC=C2CC1)S(=O)(=O)C1=CC=CC=C1)=O | C22H27NO5S
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | (7-benzenesulfonyl-chroman-2-ylmethyl)-methyl-amine | 76 mg, 80% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2CCC(OC2=C1)CNC | C17H19NO3S
